US06376672B1
In analogy to the procedure described in example 1 (h) the 2-[3-[4-[(3S,4R,5R)-3-[(2R)-2,3-dihydroxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidin-4-yl]-phenoxy]-propoxy]-benzonitrile was treated with di-tert.-butyldicarbonate to yield the (3S,4R,5R)-4-[4-[3-(2-cyano-phenoxy)-propoxy]-phenyl]-3-[(2R)-2,3-dihydroxy-propoxyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 713 (M+H)+.

reactant | 2-[3-[4-[(3S,4R,5R)-3-[(2R)-2,3-dihydroxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidin-4-yl]-phenoxy]-propoxy]-benzonitrile | O[C@@H](CO[C@@H]1CNC[C@@H]([C@H]1C1=CC=C(OCCCOC2=C(C#N)C=CC=C2)C=C1)OCC1=CC2=CC=CC=C2C(=C1)OC)CO | C36H40N2O7
reactant | di-tert.-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (3S,4R,5R)-4-[4-[3-(2-cyano-phenoxy)-propoxy]-phenyl]-3-[(2R)-2,3-dihydroxy-propoxyl]-5-(4-methoxy-naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)C#N)OC[C@@H](CO)O | C41H48N2O9
